US07022694B2
1(a). Methyl 6,7,9,10-tetrahydroazepino[4,5-g]indole-8(1H)-carboxylate
Under N2, a flame-dried, 100-mL, two-necked flask was charged with 6-nitro-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate (0.85 g, 3.4 mmol) and THF (20 mL) and cooled to −40° C. Vinyl magnesium bromide (11.2 mL, 11.2 mmol) was added and the solution was stirred for 30 min allowing to warm to −20° C. Ammonium chloride was added and the mixture partitioned between EtOAc and water. The organic layer was concentrated to give 0.88 g of a brown oil. Column chromatography (elution with 10–30% EtOAc/heptane) afforded 0.28 g (34%) of the title compound as a solid. Crystallization from EtOAc/hexane affords 0.192 g of a white solid: mp 169–171° C.; 1H NMR (400 MHz, CDCl3) δ 7.41 (d, J=8 Hz, 1 H), 7.19–7.17 (m, 1 H), 6.90 (d, J=8 Hz, 1 H), 6.53–6.52 (m, 1 H), 3.76 (s, 3 H), 3.72–3.63 (m, 4 H), 3.19–3.10 (m, 1 H), 3.00–3.10 (m, 3 H); 13C NMR (100 MHz, CDCl3) δ 156.6, 135.5, 134.1, 133.6, 126.6, 124.3, 122.7, 118.3, 102.9, 52.7, 47.4, 46.0, 37.3, 30.4; IR (diffuse reflectance) 3313, 1673, 1476, 1446, 1414, 1275, 1260, 1237, 1217, 1115, 947, 805, 764, 745, 731 cm31 1; MS (EI) m/z 244 (M+); Anal. Calcd for C14H16N2O2: C, 68.83; H, 6.60; N, 11.47. Found: C, 68.78; H, 6.58; N, 11.43.

reactant | 6-nitro-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate | 3.4 mmol, 0.85 g | [N+](=O)([O-])C1=CC=CC=2CCN(CCC21)C(=O)[O-]
reactant | Vinyl magnesium bromide | 11.2 mmol, 11.2 mL | C(=C)[Mg]Br
reactant | Ammonium chloride | [Cl-].[NH4+]
reactant | THF | 20 mL | C1CCOC1 | C4H8O
product | Methyl 6,7,9,10-tetrahydroazepino[4,5-g]indole-8(1H)-carboxylate | 0.88 g | N1C=CC2=CC=C3C(=C12)CCN(CC3)C(=O)OC | C14H16N2O2
